* C:\Users\pablo\OneDrive\Escritorio\Universidad\Analogica 1\Proyecto Uno\Proyecto Analogica\A6_AltaSK_3.asc
R1 Vout N001 {R1}
C1 Vin N002 {C1}
XU1 N003 Vout Vcc -Vcc Vout LT1001
C2 N001 N002 {C2}
V1 Vcc 0 15
V2 0 -Vcc 15
V3 Vin 0 PWL file=sig_in.csv AC 5
R2 0 N003 {R2}
R3 0 N002 {R3}
C3 N003 N001 {C3}
.tran 0 {transtop} 0 {timestep} startup
.include param.txt
.include trancmd.txt
* do not edit this by hand
.lib LTC.lib
.backanno
.end
